US06316482B1
To 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (120 mg) were added acetic acid (47 mg) and water (0.5 ml) and the suspension was stirred at ambient temperature until a clear solution was obtained. After being cooled to 5° C. a cold solution of sodium nitrite (15 mg) in water (0.3 ml) was added all at once to the solution. The reaction mixture as stirred at 5° C. for 5 minutes and then the temperature was raised to 75° C. and stirred for 10 minutes. The reaction mixture was cooled to 20° C. and the solution was stirred in an ice water bath for 1 hour. To the reaction mixture were added saturated aqueous sodium bicarbonate solution and chloroform and the organic layer was separated. The organic layer was washed with saturated aqueous sodium bicarbonate solution and brine and dried over magnesium sulfate. The solvent was evaporated and the residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 4-(1H-benzotriazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (81 mg) to give a powder.

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 120 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | acetic acid | 47 mg | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 15 mg | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 0.3 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(1H-benzotriazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 81 mg | N1N=NC2=C1C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C34H41N7O5
